US07498337B2
tert-butyl {[5-(4-bromo-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
By a similar operation as in Reference Example 79 and using tert-butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (430 mg), (4-bromo-3-thienyl)boronic acid (248 mg), sodium carbonate (254 mg) and tetrakis(triphenylphosphine)palladium (116 mg), the title compound was obtained as a pale-yellow oil (yield 470 mg, 92%).

reactant | tert-butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 430 mg | BrC1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C16H20BrN3O4S
reactant | (4-bromo-3-thienyl)boronic acid | 248 mg | BrC=1C(=CSC1)B(O)O | C4H4BBrO2S
reactant | sodium carbonate | 254 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl {[5-(4-bromo-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | BrC=1C(=CSC1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C20H22BrN3O4S2
